US07834021B2
tert-Butyl{(3R)-1-[trans-2-(Benzyloxy)cyclohexyl]pyrrolidin-3-yl}carbamate.
To a mixture of tert-butyl [(3R)-1-(trans-2-hydroxycyclohexyl)pyrrolidin-3-yl]carbamate (0.70 g, 2.46 mmol) and 60% NaH (0.108 g, 2.71 mmol) in DMF (5 mL) at 0° C. was added benzyl bromide (0.79 mL, 2.71 mmol). After being stirred overnight under N2, water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), concentrated and flash chromatographed (EtOAc to 10% MeOH/EtOAc) to give 0.60 g of the title compound. MS (EI) calcd: (M+H)+=375.3; found: 375.4.

reactant | tert-butyl [(3R)-1-(trans-2-hydroxycyclohexyl)pyrrolidin-3-yl]carbamate | 2.46 mmol, 0.70 g | O[C@H]1[C@@H](CCCC1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C15H28N2O3
reactant | NaH | 2.71 mmol, 0.108 g | [H-].[Na+]
reactant | benzyl bromide | 2.71 mmol, 0.79 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl{(3R)-1-[trans-2-(Benzyloxy)cyclohexyl]pyrrolidin-3-yl}carbamate | 0.60 g | C(C)(C)(C)OC(N[C@H]1CN(CC1)[C@H]1[C@@H](CCCC1)OCC1=CC=CC=C1)=O | C22H34N2O3
